US04595408
N-(m-propionamidophenyl)-3,3-dimethyl glutarimide
Five and one-half g. of propionic anhydride containing one drop of concentrated sulfuric acid was added to 9.3 g. of N-(m-aminophenyl)-3,3-dimethyl glutarimide in a small beaker. The mixture became warm and liquified. Upon cooling, the reaction mixture solidifed and was treated with water, collected by filtration and dried. Yield was 10.7 g. of a product having a m.p. of 199°-203° C. The product was identified as the title compound by analysis of infrared spectra.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-(m-aminophenyl)-3,3-dimethyl glutarimide | NC=1C=C(C=CC1)N1C(CC(CC1=O)(C)C)=O | C13H16N2O2
catalyst | propionic anhydride | one drop | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | O | H2O
product | N-(m-propionamidophenyl)-3,3-dimethyl glutarimide | C(CC)(=O)NC=1C=C(C=CC1)N1C(CC(CC1=O)(C)C)=O | C16H20N2O3
